US04883883
40% of N-(3-allyloxyphenyl)maleimide:
10% of N-(3-allyloxy-4-allylphenyl)maleimide and N-(3-allyloxy-6-allylphenyl)maleimide; and

reactant | N-(3-allyloxy-4-allylphenyl)maleimide | C(C=C)OC=1C=C(C=CC1CC=C)N1C(C=CC1=O)=O | C16H15NO3
reactant | N-(3-allyloxy-6-allylphenyl)maleimide | C(C=C)OC=1C=C(C(=CC1)CC=C)N1C(C=CC1=O)=O | C16H15NO3
product | N-(3-allyloxyphenyl)maleimide | C(C=C)OC=1C=C(C=CC1)N1C(C=CC1=O)=O | C13H11NO3
